US07691882B2
3-(3-(4-Cyclopentyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (3 mL) solution of (4-cyclopentyloxy-phenyl)-acetohydroximoyl chloride (150 mg, 0.592 mmol) described in Manufacturing Example 78-1-4 and 3-ethynyl-pyridin-2-ylamine described in Manufacturing Example 1-2-3 (45 mg, 0.378 mmol) was added triethylamine (206 μL, 1.48 mmol), which was stirred for 3 hours at 50° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=4:1-2:1) to obtain the title compound (44 mg, 22%).

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | (4-cyclopentyloxy-phenyl)-acetohydroximoyl chloride | 0.592 mmol, 150 mg | C1(CCCC1)OC1=CC=C(C=C1)CC(=NO)Cl | C13H16ClNO2
reactant | 3-ethynyl-pyridin-2-ylamine | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.48 mmol, 206 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-Cyclopentyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 44 mg, 22% | C1(CCCC1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C20H21N3O2
